US07217724B2
(1R)-1-Methyl-2-morpholin-4-yl-2-oxoethyl 4-methylbenzenesulfonate
Subsequently, to a suspension of 60% sodium hydride (8.41 g, 210 mmol) in tetrahydrofuran (120 mL) is added dropwise a solution of the above lactic morpholinamide (32.1 g) in tetrahydrofuran (150 mL) under nitrogen atmosphere with stirring under ice-cooling, and the mixture is heated with stirring at 50° C. for 30 minutes. After cooling with ice, to the mixture is added dropwise a solution of p-toluene-sulfonyl chloride (45.8 g, 234 mmol) in tetrahydrofuran (180 mL), and the mixture is stirred at room temperature for 4 hours. To the mixture is added 1N aqueous hydrochloric acid solution, and the mixture is extracted with ethyl acetate. The organic layer is washed with water and a saturated brine, dried over anhydrous magnesium sulfate, and the solvent is evaporated under reduced pressure. To the resulting oily residue is added diethyl ether, and the precipitated crystals are collected by filtration, washed with diethyl ether, and dried under reduced pressure to give the title compound (36.1 g, yield: 58%).

reactant | sodium hydride | 210 mmol, 8.41 g | [H-].[Na+]
reactant | morpholinamide | 32.1 g | N1(CCOCC1)C(=O)N | C5H10N2O2
reactant | p-toluene-sulfonyl chloride | 234 mmol, 45.8 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 180 mL | O1CCCC1 | C4H8O
product | (1R)-1-Methyl-2-morpholin-4-yl-2-oxoethyl 4-methylbenzenesulfonate | 36.1 g, yield: 58% | CC1=CC=C(C=C1)S(=O)(=O)O[C@@H](C(=O)N1CCOCC1)C | C14H19NO5S
